US04729840
Dicyclopentadiene was thermally decomposed, and a 198 gram portion of freshly prepared cyclopentadiene monomer was added with rapid stirring to 384 grams of butyl acrylate, containing 2.0 grams of suspended aluminum chloride catalyst, at room temperature. The temperature was then raised to 50° C., maintained there for 1 hour, and the solution was allowed to cool overnight. Toluene was added, and the catalyst was removed by water-washing. The solution was dried over anhydrous sodium sulfate and distilled through a 1"×10" glass helix-packed column, to give 480 grams of butyl 5-norbornene-2-caboxylate, b.p. 66°-70° C./0.4 torr.

reactant | Dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | butyl acrylate | 384 grams | C(C=C)(=O)OCCCC | C7H12O2
catalyst | aluminum chloride | 2.0 grams | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | butyl 5-norbornene-2-caboxylate | 480 grams | C12C(CC(C=C1)C2)C(=O)OCCCC | C12H18O2
